US04390618
335 g (1.15 mol) of 1-hydroxy-4-ethoxycarbonylmethyloxy-2-naphthoic acid and 160 g (1 mol) of p-nitrophenol were added to 1 liter of toluene, and the mixture was stirred while keeping the temperature at 80° C. 130 mols of thionyl chloride were added dropwise over 30 minutes. After stirring for 30 minutes more, the mixture was cooled. The precipitated crystals were filtered off and dried to obtain 271 g (57% yield) of 1-hydroxy-4-ethoxycarbonylmethyloxy-2-naphthoic acid 4-nitrophenyl ester. Melting point: 165°-167° C.

reactant | 1-hydroxy-4-ethoxycarbonylmethyloxy-2-naphthoic acid | 1.15 mol, 335 g | OC1=C(C=C(C2=CC=CC=C12)OCC(=O)OCC)C(=O)O | C15H14O6
reactant | p-nitrophenol | 1 mol, 160 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | thionyl chloride | 130 mols | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | 1-hydroxy-4-ethoxycarbonylmethyloxy-2-naphthoic acid 4-nitrophenyl ester | 271 g, 57% yield | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=C(C2=CC=CC=C2C(=C1)OCC(=O)OCC)O | C21H17NO8
